US05204326
Preparation of Boc-Leu-Gly-OEt
9.10 Milliliters of WSC was gradually added to 100 ml of a solution of 12.47 g of Boc-Leu-OH.H2O, 6.98 g of HCl.H-Gly-OEt and 6.76 g of HOBT dissolved in dichloromethane, with ice-cooling. The mixture was stirred for 42 hours at room temperature. The reaction mixture was mixed with 100 ml of 1N hydrochloric acid, and the resulting precipitate was removed by filtration. The filtrate was washed with 100 ml of 1N hydrochloric acid, two 100-ml portions of a saturated aqueous sodium bicarbonate solution and 100 ml of a saturated aqueous sodium chloride solution in this order, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added petroleum ether to crystallize the residue. The resulting crystal was recrystallized from ethyl acetate-petroleum ether to obtain 8.68 g (yield: 56.6%) of the above objective compound. Melting point: 79.5°-82.5° C.

reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | Boc-Leu-OH.H2O | 12.47 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.O
reactant | HCl | 6.98 g | Cl | ClH
reactant | H-Gly-OEt | NCC(=O)OCC | C4H9NO2
reactant | HOBT | 6.76 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | Boc-Leu-Gly-OEt | 8.68 g, yield: 56.6% | N([C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C15H28N2O5
